US07335658B2
6-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID [2-(4-CHLOROPHENOXY)ETHYL]AMIDE
Following the procedure of Example 15, making variations only as required to use 6-chloropyridazine-3-carboxylic acid [2-(4-chlorophenoxy)ethyl]amide in place of 6-chloro-pyridazine-3-carboxylic acid (2-cyclopropyl-2-hydroxyethyl)amide to react with piperazin-1-yl-(2-trifluoromethylphenyl)methanone, the title compound was obtained as a white solid (13% yield). 1H NMR (400 MHz, CDCl3) δ 8.27, 8.05, 7.74, 7.64, 7.57, 7.37, 7.25-7.20, 7.00, 6.85-6.82, 4.02-3.32.

reactant | 6-chloropyridazine-3-carboxylic acid [2-(4-chlorophenoxy)ethyl]amide | ClC1=CC=C(OCCNC(=O)C=2N=NC(=CC2)Cl)C=C1 | C13H11Cl2N3O2
reactant | piperazin-1-yl-(2-trifluoromethylphenyl)methanone | N1(CCNCC1)C(=O)C1=C(C=CC=C1)C(F)(F)F | C12H13F3N2O
product | 6-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID [2-(4-CHLOROPHENOXY)ETHYL]AMIDE | ClC1=CC=C(OCCNC(=O)C=2N=NC(=CC2)N2CCN(CC2)C(C2=C(C=CC=C2)C(F)(F)F)=O)C=C1 | C25H23ClF3N5O3
